US07687495B2
b) 1-[(2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-3-methyl-butan-2-one
A mixture of 0.19 g of 1-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-3-methyl-but-3-en-2-one and 0.044 g of 10% Pd/C in 5 ml of ethanol is hydrogenated at room temperature for 30 minutes. The reaction mixture is clarified by filtration and concentrated to afford the crude title compound as a light brown oil which is used in the next step without any further purification. Rf=0.30 (EtOAc-heptane 1:1); Rt=5.54.

reactant | 1-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-3-methyl-but-3-en-2-one | 0.19 g | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(=C)C)=O | C37H46N2O7S
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.044 g | [Pd] | Pd
product | 1-[(2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-3-methyl-butan-2-one | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(C)C)=O | C37H48N2O7S
